US08383827B2
A flask charged with a solution of 6-chloro-1-methyl-1H-benzo[d]imidazole (2 g, 12 mmol) in THF (100 mL) was cooled to −78° C. and 1.8M LDA in THF/hexanes/ethylbenzene (9.34 mL, 16.81 mmol) was added dropwise, and the mixture was stirred at −78° C. for 1 h. A solution of 1,2-diiodoethane (3.72 g, 13.2 mmol) in THF (50 mL) was added dropwise and the mixture was stirred at −78° C. for 1 h. Water (0.3 mL) was added followed by silica gel (20 g) and the mixture was concentrated in vacuo. The residue was purified by silica chromatography eluting with EtOAc in heptane (v/v, 10 to 50%) to give 6-chloro-2-iodo-1-methyl-1H-benzo[d]imidazole. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3H) 7.19 (dd, J=8.59, 2.02 Hz, 1H) 7.58 (d, J=8.59 Hz, 1H) 7.78 (d, J=2.02 Hz, 1H).

reactant | 6-chloro-1-methyl-1H-benzo[d]imidazole | 12 mmol, 2 g | ClC=1C=CC2=C(N(C=N2)C)C1 | C8H7ClN2
reactant | LDA | 1.8M | [Li+].CC(C)[N-]C(C)C
reactant | 1,2-diiodoethane | 13.2 mmol, 3.72 g | ICCI | C2H4I2
reactant | Water | 0.3 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-chloro-2-iodo-1-methyl-1H-benzo[d]imidazole | ClC=1C=CC2=C(N(C(=N2)I)C)C1 | C8H6ClIN2
